* MODELLING FOR STB80PF55T4
 
.SUBCKT STB80PF55T4 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  1.78512
RS 9 12 0.191E-02
RD 7 6  0.611E-02
RJ 8 7  0.158E-02
CGS 5 9   0.388E-08
CGD 7 10  0.141E-07
CK  11 7  0.111E-08
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.344
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -3.375
+ PHI   = 0.719
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.318
+ KP    = 80.011
+ eta   = 0.144E-02

.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.594E-12
+ VJ    = 0.686
+ M     = 0.364
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.738E-12
+ VJ    = 0.804
+ M     = 0.338
.MODEL DBS D
+ IS    = 0.1P
+ BV    = 60
+ N     = 1
+ TT    = 0.133E-06
+ RS    = 0.193E-01
.MODEL DID D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 65

.ENDS STB80PF55T4
 
* END OF MODELLING

*
*       _/_/_/_/_/_/                          
*     _/       _/                             
*      _/_/   _/          STMicroelectronics  
*         _/ _/                               
*   _/_/_/  _/                                
*   www.st.com                                
*                                             
* 
*****************************************************
*     Model Generated by STMicroelectronics         *
*             All Rights Reserved       	          *
*      Commercial Use or Resale Restricted          *
*****************************************************
* CREATION DATES: 10-02-2010                        *
*                                                   *
* POWER MOSFET Model (level 3)                      *
*                                                   *
* EXTERNAL PINS DESCRIPTION:                        *
*                                                   *
* PIN 1 -> Drain                                    *
* PIN 2 -> Gate                                     *
* PIN 3 -> Source                                   *
*                                                   *
*                    ****C****                      *
*            **********************                 *
*     ***************************************       *
*  PARAMETER MODELS EXTRACTED FROM MEASURED DATA    *
*              <<<<<<<<<<<>>>>>>>>>>>               *
*     ***************************************       *
*   THIS MODEL CAN BE USED AT TEMPERATURE: 25 °C    *
*                                                   *
*****************************************************

* MODELLING FOR STD10PF06T4
 
.SUBCKT STD10PF06T4 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  3.115
RS 9 12 0.244E-02
RD 7 6  0.458E-01
RJ 8 7  0.256E-02
CGS 5 9   0.581E-09
CGD 7 10  0.881E-09
CK  11 7  0.379E-10
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.138
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -3.683
+ PHI   = 0.974
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.426
+ KP    = 10.642
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.238E-10
+ VJ    = 0.772
+ M     = 0.377
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.101E-10
+ VJ    = 0.751
+ M     = 0.334
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 66
+ N     = 1
+ TT    = 0.949E-07
+ RS    = 0.511E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 76
.ENDS STD10PF06T4
 
* END OF MODELLING
* MODELLING FOR STD30PF03LT4
 
.SUBCKT STD30PF03LT4 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  2.399
RS 9 12 0.151E-02
RD 7 6  0.104E-01
RJ 8 7  0.562E-04
CGS 5 9   0.113E-08
CGD 7 10  0.249E-08
CK  11 7  0.164E-09
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.394
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -2.691
+ PHI   = 0.809
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.961
+ KP    = 75.329
+ ETA   = 0.639E-02
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.176E-10
+ VJ    = 0.784
+ M     = 0.341
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.134E-10
+ VJ    = 0.752
+ M     = 0.358
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 36
+ N     = 1
+ TT    = 0.351E-07
+ RS    = 0.563E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 46
.ENDS STD30PF03LT4
 
* END OF MODELLING
* MODELLING FOR STN3PF06
 
.SUBCKT STN3PF06 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  3.115
RS 9 12 0.244E-02
RD 7 6  0.458E-01
RJ 8 7  0.256E-02
CGS 5 9   0.581E-09
CGD 7 10  0.881E-09
CK  11 7  0.379E-10
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.138
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STN3PF06
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -3.683
+ PHI   = 0.974
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.426
+ KP    = 10.642
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.238E-10
+ VJ    = 0.772
+ M     = 0.377
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.101E-10
+ VJ    = 0.751
+ M     = 0.334
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 66
+ N     = 1
+ TT    = 0.949E-07
+ RS    = 0.511E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 76
 
* END OF MODELLING
* MODELLING FOR STP12PF06
 
.SUBCKT STP12PF06 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  3.115
RS 9 12 0.244E-02
RD 7 6  0.458E-01
RJ 8 7  0.256E-02
CGS 5 9   0.581E-09
CGD 7 10  0.881E-09
CK  11 7  0.379E-10
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.138
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STP12PF06
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -3.683
+ PHI   = 0.974
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.426
+ KP    = 10.642
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.238E-10
+ VJ    = 0.772
+ M     = 0.377
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.101E-10
+ VJ    = 0.751
+ M     = 0.334
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 66
+ N     = 1
+ TT    = 0.949E-07
+ RS    = 0.511E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 76
 
* END OF MODELLING
* MODELLING FOR STP80PF55
 
.SUBCKT STP80PF55 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  1.78512
RS 9 12 0.191E-02
RD 7 6  0.611E-02
RJ 8 7  0.158E-02
CGS 5 9   0.388E-08
CGD 7 10  0.141E-07
CK  11 7  0.111E-08
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.344
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -3.375
+ PHI   = 0.719
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.318
+ KP    = 80.011
+ eta   = 0.144E-02

.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.594E-12
+ VJ    = 0.686
+ M     = 0.364
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.738E-12
+ VJ    = 0.804
+ M     = 0.338
.MODEL DBS D
+ IS    = 0.1P
+ BV    = 60
+ N     = 1
+ TT    = 0.133E-06
+ RS    = 0.193E-01
.MODEL DID D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 65

.ENDS STP80PF55
 
* END OF MODELLING

* MODELLING FOR STS5PF30L
 
.SUBCKT STS5PF30L 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  3
RS 9 12 0.997E-03
RD 7 6  0.336E-01
RJ 8 7  0.159E-03
CGS 5 9   0.152E-08
CGD 7 10  0.722E-09
CK  11 7  0.491E-10
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.181
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STS5PF30L
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -2.56
+ PHI   = 0.933
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.797
+ KP    = 29.901
+ eta   = 0.822E-02

.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.241E-10
+ VJ    = 0.751
+ M     = 0.334
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.492E-13
+ VJ    = 0.895
+ M     = 0.348
.MODEL DBS D
+ IS    = 0.1P
+ BV    = 34
+ N     = 1
+ TT    = 0.647E-07
+ RS    = 0.303E-01
.MODEL DID D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 43
 
* END OF MODELLING

* MODELLING FOR STS6PF30L
 
.SUBCKT STS6PF30L 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  2.399
RS 9 12 0.151E-02
RD 7 6  0.104E-01
RJ 8 7  0.562E-04
CGS 5 9   0.113E-08
CGD 7 10  0.249E-08
CK  11 7  0.164E-09
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  0.394
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -2.691
+ PHI   = 0.809
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.961
+ KP    = 75.329
+ ETA   = 0.639E-02
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.176E-10
+ VJ    = 0.784
+ M     = 0.341
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.134E-10
+ VJ    = 0.752
+ M     = 0.358
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 36
+ N     = 1
+ TT    = 0.351E-07
+ RS    = 0.563E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 46
.ENDS STS6PF30L
 
* END OF MODELLING
* MODELLING FOR STT5PF20V
 
.SUBCKT STT5PF20V 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  10.991
RS 9 12 0.478E-03
RD 7 6  0.416E-02
RJ 8 7  0.421E-03
CGS 5 9   0.551E-09
CGD 7 10  0.148E-08
CK  11 7  0.191E-11
DGD 7 11 DGD
DBS 6 12 DBS
DBD  7 9 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  13 8 POLY(2) 6 8 6 12 0 0 0 0  3.651
G1  100 0 5 7 1u
D1  101 100  DID
D2  100 102  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STT5PF20V
 
.MODEL MOS PMOS
+ LEVEL = 3
+ VTO   = -0.885
+ PHI   = 0.629
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.587
+ KP    = 26.206
+ eta   = 0.904E-02

.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.429E-13
+ VJ    = 0.668
+ M     = 0.337
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.121E-10
+ VJ    = 0.783
+ M     = 0.331
.MODEL DBS D
+ IS    = 0.1P
+ BV    = 26
+ N     = 1
+ TT    = 0.332E-07
+ RS    = 0.311E-01
.MODEL DID D
+ IS    = 0.01P
+ RS    = 0
+ BV    = 33
 
* END OF MODELLING

